US04042610
To a stirred solution of 4.20 g of titanium tetrakis(dimethylamide) in about 10 ml of pentane was added a solution of 1.77 g of trimethylsilylmethyllithium in pentane. Lithium dimethylamide precipitated immediately. The mixture was stirred for 1 hour and filtered, pentane was removed from the filtrate by rotary evaporation, and the residual pale-yellow oil was distilled through a short still-head under reduced pressure, to give 0.87 g of trimethylsilylmethyltitanium tris(dimethylamide), bp 55° C. (50 μ). Nmr in C6D6 : δ (NMe) 3.07, δ (SiMe) 0.22, δ (CH2) 0.35 ppm downfield from tetramethylsilane.

reactant | titanium tetrakis(dimethylamide) | 4.20 g | C[N-]C.C[N-]C.C[N-]C.C[N-]C.[Ti+4]
reactant | trimethylsilylmethyllithium | 1.77 g | C[Si](C)(C)C[Li]
solvent | pentane | about 10 ml | CCCCC | C5H12
product | trimethylsilylmethyltitanium tris(dimethylamide) | 0.87 g | C[N-]C.C[N-]C.C[N-]C.C[Si](C)(C)C[Ti+3] | InChI=1S/C4H11Si.3C2H6N.Ti/c1-5(2,3)4;3*1-3-2;/h1H2,2-4H3;3*1-2H3;/q;3*-1;+3
